data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C4=CC5=C(C=CC=C5)C=C4.C(CC=C(F)F)CC(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=C(C=C1)C=C(C=C2)[CH2:20][O:10]C(=O)CCCC=C(F)F.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
CC[C:22](=[O:23])[CH:21]=[CH2:20].C[C:10]1=[C:11](CCCC1=O)[O-:12].CC[NH+](CC)CC>>CC[C:22](=[CH:21][CH2:20][C:10]1(C(=O)CCC[C:11]1=[O:12])C)[O-:23].CC[NH+](CC)CC 10,11=10,20;12=11;22,23=23;20,21=21,22
C[OH+:21][C:20]([OH:10])(OC)OC>>C[OH:21].CO[C:20](=[OH+:10])OC 10=20;20,21=21
[H:20][N:21]([C:22](=[O:23])OC)N(C(=O)OC)[P+](C)(C)C.[N-:10]=[N+]=[N-]>>[H:20][N:10]=[N+]=[N-].CO[C:22](=[N:21]N(C(=O)OC)[P+](C)(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1CC(C2C1CC(=O)O2)I.[OH:10][Na]>>[H:20][OH+:10][Na].C1C(C2CC(=O)OC2C1I)[O-:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C)C(C)(C)O.[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21]C(C)(C)O)[O-:23] 10=20;22,23=23;20,21=21,22
CCC1([CH:20]([O:21]1)C)C.[OH-:10]>>CCC(C)([CH:20](C)[OH:10])[O-:21] 10=20;20,21=21
[H:20][OH:21].C1=C(C=C(C(=C1Br)O)Br)CNC2=C3C(=NC(N2)[O-:10])N(C(=O)N3)C4C(C(C(O4)CO)O)O.[Br-]>>[H:20][O:10]C1NC(=C2C(=N1)N(C(=O)N2)C3C(C(C(O3)CO)O)O)NCC4=CC(=C(C(=C4)Br)O)Br.[OH-:21].[Br-] 10=20;20,21=21
CCC1=NC([C:20](O1)([O-:10])[O:21]C(=O)CC)CC2CCCCC2.CCC(=O)O.C1=CC=[NH+]C=C1>>CCC1=NC([C:20](=[O:10])O1)CC2CCCCC2.CCC(=O)O.CCC(=O)[O-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
CC1(CC([C:20](=[O:21])C=C1)(C)CC[C:11](=[CH2:10])[O-:12])C.CO>>CC1(CC2(CC[C:11](=[O:12])[CH2:10][C:20]2(C=C1)[O-:21])C)C.CO 10,11=10,20;20,21=21;12=11
C1=CC(=N[C:22](=[NH2+:23])[C:21]1=[CH:20]Cl)N.[OH2:10].CCO.[Na+].[Cl-]>>C1=CC(=N[C:22](=[C:21]1[CH:20]([OH2+:10])Cl)[NH2:23])N.CCO.[Na+].[Cl-] 10=20;22,23=23;20,21=21,22
[B-]([O:10]CC[O+:21]=[CH:20]C)(F)(F)F>>[B-]([O+:10]1CC[O:21][CH:20]1C)(F)(F)F 10=20;20,21=21
CC(=CCC[C:20](C)([NH+:21]1CCCC1)[OH:10])[O-]>>C[C:20](=[OH+:10])CCC=C(C)[O-].C1CC[NH:21]C1 10=20;20,21=21
C1=CC=C(C=C1)C2=CC([C:20]([O:10]2)(C3=CC=CC=C3)[OH2+:21])C(=O)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[O-]>>C1=CC=C(C=C1)C2=CC([C:20](=[O+:10]2)C3=CC=CC=C3)C(=O)C4=CC=CC=C4.[OH2:21].C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
CC1CCC2=CC(=O)C(CC12CCC#C)[Si:20](C)(C)C.[OH-:10].CO.O[K]>>CC1CCC2=CC(=O)C(CC12CCC#C)[Si-:20](C)(C)(C)[OH:10].CO.O[K] 10=20,
[H:20][N+:21](C)(C)C.CCO[C:11](=[C:10](C)C)[O-:12]>>[H:20][C:10](C)(C)[C:11](=[O:12])OCC.C[N:21](C)C 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1CC(CC(=O)[C:23](=[CH:22]1)[C:24](=[O:25])OC)CC(C)C.C[O-:10].[HH].CC(=O)C=C.[Na+]>>[H:20][O:10]C.CC(C)CC1C[CH:21]=[CH:22][C:23](=[C:24]([O-:25])OC)C(=O)C1.[HH].CC(=O)C=C.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
[Li:11][C:10]1=CC=CC=C1.C[C:20](=[O:21])N(C)OC>>[Li+:11].C[C:20]([C:10]1=CC=CC=C1)(N(C)OC)[O-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]C.CN(C)P(OC)(OC)[O:10]C>>[H:20][O+:10](C)P(N(C)C)(OC)OC.C[OH:21] 10=20;20,21=21
[H:20][C:21]1(C(N=NN1C2=CC=CC=C2)(C)O)[C:22](=[O:23])C.C1CCC2=[N:10]CCCN2CC1>>[H:20][N+:10]1=C2CCCCCN2CCC1.C[C:22](=[C:21]1C(N=NN1C2=CC=CC=C2)(C)O)[O-:23] 10=20;22,23=23;20,21=21,22
C1CO[C:20](=[O:21])OC1.[OH-:10]>>C1CO[C:20](OC1)([OH:10])[O-:21] 10=20;20,21=21
C[Si:20](C)(C)Cl.[OH-:10]>>C[Si-:20](C)(C)([OH:10])Cl 10=20,
[H:20][C:21]1([CH:22]=[NH+:23]C2=C1C=CC=C2)C3CC4=C(N3)C=CC=C4.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.C1C(NC2=C1C=CC=C2)[C:21]3=[CH:22][NH:23]C4=C3C=CC=C4 10=20;22,23=23;20,21=21,22
C[O:21][C:20](C1=CC=CC=C1)([O-:10])OC.[Mg+]Br>>C[O-:21].CO[C:20](=[O:10])C1=CC=CC=C1.[Mg+]Br 10=20;20,21=21
[H:20][Br:21].CC1CCC([C:11](=[CH:10]1)C)C>>[H:20][CH:10]1C(CCC([C+:11]1C)C)C.[Br-:21] 10,11=10,20;20,21=21
CCC(C)C(C)(CC)[O-:10].[AlH3:20]>>CCC(C)C(C)(CC)[O:10][AlH3-:20] 10=20,
O[P:10](O)O.[OH:21][Cl:20]>>[OH-:21].O[P+:10](O)(O)[Cl:20] 10=20;20,21=21
CC[OH:10].CC1CCC(C(C1)C=CC(C)(C(C)C)N=[C:20]=[O:21])C(C)C>>CC[OH+:10][C:20](=NC(C)(C=CC1CC(CCC1C(C)C)C)C(C)C)[O-:21] 10=20;20,21=21
C[N:10](C)[CH2:20][Br:21]>>C[N+:10](=[CH2:20])C.[Br-:21] 10=20;20,21=21
CC(C)[CH2:20][Br:21].CN(C)[C:11](=[CH2:10])[O-:12]>>CC(C)[CH2:20][CH2:10][C:11](=[O:12])N(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
CC(=O)O[C:20](=[O:21])C.[NH3:10]>>CC(=O)O[C:20](C)([NH3+:10])[O-:21] 10=20;20,21=21
CC[C+:20](C)C.CC[OH:10]>>CC[C:20](C)(C)[OH+:10]CC 10=20,
CC[Sn:20](CC)(CC)C[CH+]CC(C1=CC=CC=C1)O[Zn-](Cl)Cl.[Cl-:10]>>CC[Sn-:20](CC)(CC)(C[CH+]CC(C1=CC=CC=C1)O[Zn-](Cl)Cl)[Cl:10] 10=20,
CC[OH:10].C[C:20](=[OH+:21])OC(=O)CCC=O>>CC[OH+:10][C:20](C)([OH:21])OC(=O)CCC=O 10=20;20,21=21
CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:10].C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C4=CC5=C(C=CC=C5)C=C4.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CCC(C(=O)C1=CC=CC=C1)C(=O)[O:10][CH2:20]C2=CC3=C(C=CC=C3)C=C2.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
C[NH+:21]=[CH2:20].[I-:10]>>C[NH:21][CH2:20][I:10] 10=20;20,21=21
